US06683184B2
1-[(2-Methoxynaphth-3-yl)-N-methylaminocarbonyl]-4-(3,5-dimethylphenyl)piperazine
To 1-[(2-methoxynaphth-3-yl)aminocarbonyl]-4-(3,5-dimethylphenyl)piperazine (210 mg, 0.54 mmol) dissolved in dimethylformamide (15 ml), 60% sodium hydride (21.5 mg, 0.54 mmol) was added, stirred at room temperature for 15 minutes, and thereto methyl iodide (76.6 mg, 0.54 mmol) was added. The resulting mixture was stirred at room temperature for 6 hours, concentrated under the reduced pressure to remove the solvent and purified by column chromatography to obtain the titled compound.

reactant | 1-[(2-methoxynaphth-3-yl)aminocarbonyl]-4-(3,5-dimethylphenyl)piperazine | 0.54 mmol, 210 mg | COC1=CC2=CC=CC=C2C=C1NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)C)C | C24H27N3O2
reactant | sodium hydride | 0.54 mmol, 21.5 mg | [H-].[Na+]
reactant | methyl iodide | 0.54 mmol, 76.6 mg | CI | CH3I
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1-[(2-Methoxynaphth-3-yl)-N-methylaminocarbonyl]-4-(3,5-dimethylphenyl)piperazine | yield: 86.4% | COC1=CC2=CC=CC=C2C=C1N(C(=O)N1CCN(CC1)C1=CC(=CC(=C1)C)C)C | C25H29N3O2
